US04102906
310 g of 1,6-dinitroanthraquinone (96%) were reacted 0.5 hours with 340 g of ammonia (molar ratio 20:1; pressure 80 atms) in 1 liter of n-pentane in an autoclave at 150° C.; the reaction mixture obtained was freed from the solvent by distillation. Residue: 269 g of a 91.5% 1-amino-6-nitroanthraquinone (89% of the theoretical yield).

reactant | 1,6-dinitroanthraquinone | 310 g | [N+](=O)([O-])C1=CC=CC=2C(C3=CC(=CC=C3C(C12)=O)[N+](=O)[O-])=O | C14H6N2O6
reactant | ammonia | 340 g | N | H3N
solvent | n-pentane | 1 liter | CCCCC | C5H12
product | 1-amino-6-nitroanthraquinone | 91.5% | NC1=CC=CC=2C(C3=CC(=CC=C3C(C12)=O)[N+](=O)[O-])=O | C14H8N2O4
